US07041687B2
5-Nitro-7-phenyl-1H-indazole:
To a solution of 3-Methyl-5-nitro-biphenyl-2-ylamine (91 mg, 0.39 mmole) in pre-heated glacial acetic acid (4 mL) was added 0.44M sodium nitrite solution (1 mL), in a dropwise fashion. The resulting mixture was stirred overnight at room temperature. The crude product was concentrated in-vacuo and the residue re-dissolved in EtOAc (20 mL) and washed with saturated NaHCO3 (2×20 mL) and brine (1×20 mL). The organic layer was separated, dried (MgSO4), filtered and concentrated in-vacuo to yield the desired product (67 mg) as a yellow powder. 1H NMR (400 MHz, CDCl3) δ 7.50(1H, m), 7.58(2H, m), 7.69(2H, m), 8.33 (2H, m), 8.75(1H, s), 10.55(br s). MS (ES+): m/e=240, (ES−): m/e=238.

reactant | 3-Methyl-5-nitro-biphenyl-2-ylamine | 0.39 mmole, 91 mg | CC=1C(=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1)N | C13H12N2O2
reactant | sodium nitrite | 0.44M, 1 mL | N(=O)[O-].[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 5-Nitro-7-phenyl-1H-indazole | 67 mg | [N+](=O)([O-])C=1C=C2C=NNC2=C(C1)C1=CC=CC=C1 | C13H9N3O2
